US08445510B2
4-Bromo-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,5-dimethyl-1H-pyrazole
A solution of 4-bromo-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-methyl-1H-pyrazole (130.0 mg, 0.4258 mmol) in THF (2 mL, 20 mmol) was cooled to −78° C., and 1.5 M of LDA in cyclohexane (0.85 mL, 1.3 mmol) was added. After stirring for 1 h, methyliodide (0.1 mL, 2 mmol) was added slowly, and the mixture was stirred at −78° C. for 1 h. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as yellow solid. 1H NMR (400 MHz, CD3OD): δ=0.07 (s, 6H), 0.86 (s, 9H), 2.21 (s, 3H), 3.73 (s, 3H), 4.50 (s, 2H).

reactant | 4-bromo-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-methyl-1H-pyrazole | 0.4258 mmol, 130.0 mg | BrC=1C(=NN(C1)C)CO[Si](C)(C)C(C)(C)C | C11H21BrN2OSi
reactant | THF | 20 mmol, 2 mL | C1CCOC1 | C4H8O
reactant | LDA | 1.5 M | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 1.3 mmol, 0.85 mL | C1CCCCC1 | C6H12
reactant | methyliodide | 2 mmol, 0.1 mL | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
product | 4-Bromo-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,5-dimethyl-1H-pyrazole | BrC=1C(=NN(C1C)C)CO[Si](C)(C)C(C)(C)C | C12H23BrN2OSi
